US07910588B2
Dissolve 2-acetyl-3-oxobutyric acid ethyl ester (20.74 g, 0.120 mol) and 2-pyridylhydrazine (14.5 mL, 0.133 mol) in acetic acid (160 mL) and stir the mixture for 18 hr. Concentrate, dilute with DCM, wash with saturated sodium bicarbonate, dry (sodium sulfate), filter and concentrate to give 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester as an oil (28.6 g, 97%). MS (m/z): 246 (M+1).

reactant | 2-acetyl-3-oxobutyric acid ethyl ester | 0.120 mol, 20.74 g | C(C)OC(C(C(C)=O)C(C)=O)=O | C8H12O4
reactant | 2-pyridylhydrazine | 0.133 mol, 14.5 mL | N1=C(C=CC=C1)NN | C5H7N3
solvent | acetic acid | 160 mL | C(C)(=O)O | C2H4O2
product | 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carboxylic acid ethyl ester | 28.6 g, 97% | C(C)OC(=O)C=1C(=NN(C1C)C1=NC=CC=C1)C | C13H15N3O2
